US07872128B2
6-Chloro-3-(4-ethylphenylamino)benzo[d]isoxazole-7-carboxylic acid (0.195 g, 0.615 mmol) was dissolved in DMF, followed by TEA (0.223 ml, 1.61 mmol) and HATU (0.285 g, 0.749 mmol). The mixture was allowed to stir for 5 min before adding pyrimidin-5-amine (0.0509 g, 0.535 mmol) and the mixture was heated to 50° C. overnight. The mixture was then cooled to RT, partitioned between EtOAc/brine, the layers were separated, and the aqueous was extracted with EtOAc (3×). The combined organics were washed with H2O and brine, filtered and concentrated. The crude material was purified by silica gel chromatography using 20:1 DCM/MeOH to give 6-Chloro-3-(4-ethylphenylamino)-N-(pyrimidin-5-yl)benzo[d]isoxazole-7-carboxamide as a light brown solid. MS calculated 393.8, found M+H+=394.1.

reactant | 6-Chloro-3-(4-ethylphenylamino)benzo[d]isoxazole-7-carboxylic acid | 0.615 mmol, 0.195 g | ClC1=C(C2=C(C(=NO2)NC2=CC=C(C=C2)CC)C=C1)C(=O)O | C16H13ClN2O3
reactant | HATU | 0.749 mmol, 0.285 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrimidin-5-amine | 0.535 mmol, 0.0509 g | N1=CN=CC(=C1)N | C4H5N3
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Chloro-3-(4-ethylphenylamino)-N-(pyrimidin-5-yl)benzo[d]isoxazole-7-carboxamide | ClC1=C(C2=C(C(=NO2)NC2=CC=C(C=C2)CC)C=C1)C(=O)NC=1C=NC=NC1 | C20H16ClN5O2
